US04638067
To a solution of 32.9 g (0.15 mole) 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid [J. Org. Chem., 26, 1519 (1961)] and 300 ml of dichloromethane was added 15.2 g (0.15 mole) of N-methylmorpholine. After 15 minutes the solution was cooled to -25° C. and 16.3 g (0.15 mole) of ethyl chloroformate was added. After an additional ten minutes, a solution of 13.5 g (0.18 mole) of diethylamine and 18 ml dichloromethane was added to the reaction. Carbon dioxide was evolved and after 1.5 h another 10 g (0.13 mole) of diethylamine in 10 ml of dichloromethane was added. The reaction was stirred four hours, washed with 1N sodium hydroxide, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was added to a suspension of 17.4 g (0.46 mole) of lithium aluminum hydride and 210 ml anhydrous tetrahydrofuran. The reaction was refluxed overnight then cooled to room temperature. The cooled solution was quenched with 17.4 ml water, 17.4 ml 15% sodium hydroxide, and 52.2 ml water. The resulting precipitate was filtered and washed with ethyl alcohol. The filtrate was concentrated under reduced pressure, taken up in dichloromethane, dried over magnesium sulfate. The solvent was removed under vacuum giving 25.8 g (69%) of N,N-diethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine as a yellow oil. This material was used in the next step without purification.

reactant | 5-oxo-1-(phenylmethyl)-3-pyrrolidinecarboxylic acid | 0.15 mole, 32.9 g | O=C1CC(CN1CC1=CC=CC=C1)C(=O)O | C12H13NO3
reactant | N-methylmorpholine | 0.15 mole, 15.2 g | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 0.15 mole, 16.3 g | ClC(=O)OCC | C3H5ClO2
reactant | diethylamine | 0.18 mole, 13.5 g | C(C)NCC | C4H11N
reactant | Carbon dioxide | C(=O)=O | CO2
reactant | diethylamine | 0.13 mole, 10 g | C(C)NCC | C4H11N
reactant | lithium aluminum hydride | 0.46 mole, 17.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
product | N,N-diethyl-1-(phenylmethyl)-3-pyrrolidinemethanamine | 25.8 g, 69% | C(C)N(CC1CN(CC1)CC1=CC=CC=C1)CC | C16H26N2
